US07399812B2
Preparation of 2,2-di-n-propyl-1-methoxy-3-[(trimethylsilyl)oxy]-propane
According to the procedure as described in Example 1,2,2-di-n-propyl-1-methoxy-3-[(trimethylsilyl)oxy]propane was prepared from intermediate 2,2-di-n-propyl-3-methoxy-1-propanol and reagent trimethylsilyl chloride.

reactant | 2,2-di-n-propyl-3-methoxy-1-propanol | C(CC)C(CO)(COC)CCC | C10H22O2
reactant | trimethylsilyl chloride | C[Si](C)(C)Cl | C3H9ClSi
product | 2,2-di-n-propyl-1-methoxy-3-[(trimethylsilyl)oxy]-propane | C(CC)C(COC)(CO[Si](C)(C)C)CCC | C13H30O2Si
